US08859541B2
F5a) tert-butyl-N-[1-[[5-[benzenesulfonyl(methyl)amino]-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate
A mixture of 2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoic acid (54 mg, 0.26 mmol) and N,N′-dicyclohexylcarbodiimide (27 mg, 0.13 mmol) in DCM (1.5 ml) is stirred at RT for 20 minutes. This mixture is added to N-[6-amino-2-(2-phenylethynyl)pyridin-3-yl]-N-methylbenzenesulfonamide E5a (16 mg, 0.04 mmol) and DIPEA (9 μl; 0.05 mmol) in DCM (0.5 ml). After stirring for 4 days at 40° C. the reaction mixture is diluted with DCM and extracted with water. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The crude product (22 mg) is used in the next step without further purification.

reactant | 2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoic acid | 0.26 mmol, 54 mg | CN(C(C(=O)O)C)C(=O)OC(C)(C)C | C9H17NO4
reactant | N,N′-dicyclohexylcarbodiimide | 0.13 mmol, 27 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-[6-amino-2-(2-phenylethynyl)pyridin-3-yl]-N-methylbenzenesulfonamide | NC1=CC=C(C(=N1)C#CC1=CC=CC=C1)N(S(=O)(=O)C1=CC=CC=C1)C | C20H17N3O2S
reactant | DIPEA | 0.05 mmol, 9 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl-N-[1-[[5-[benzenesulfonyl(methyl)amino]-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)N(C)S(=O)(=O)C1=CC=CC=C1)C#CC1=CC=CC=C1)C)=O | C29H32N4O5S
